US05183925
4-[2-[(1E,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]-butyric acid
A solution of 130 mg of 4-[2-[(1E,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]butyric acid ethyl ester in 10 ml of methanol and 2.5 ml of 0.5 n sodium hydroxide solution is stirred under argon atmosphere for 3 hours at room temperature. The reaction mixture is poured on ice water, acidified to pH 5 with 0.5 n sulfuric acid and shaken out with ethyl acetate. The organic phase is dried, concentrated by evaporation and the residue is chromatographed on silica gel with n-hexane/diethyl ether=7/3. 78 mg of the title compound is obtained as a colorless oil.

reactant | 4-[2-[(1E,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]butyric acid ethyl ester | 130 mg | C(C)OC(CCCOC1=C(C=CC=C1)\C=C\C=C\C(CCCCCCCC)O)=O | C25H38O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 4-[2-[(1E,3E)-(5RS)-5-hydroxy-1,3-tridecadienyl]-phenoxy]-butyric acid | 78 mg | OC(/C=C/C=C/C1=C(OCCCC(=O)O)C=CC=C1)CCCCCCCC | C23H34O4
